Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pamabrom / aspirin
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a ___ woman with a h/o pancreatic cyst, HTN, 
multinodular non-toxic goiter p/w 2 weeks of gradually worsening 
dyspnea on exertion without associated chest pain or lower 
extremity edema. The patient says that she made a trip to ___ 
in ___ and was feeling fine. The longest flight she 
took during that trip was approximately 7 hours. She says that 2 
weeks after she came back to the ___ she started having 
occasional cough with clear sputum, no hemoptysis. She consulted 
her PCP and was initially treated with for bronchitis. Her cough 
did not improve with the treatment, rather it has gotten worse. 
She endorses that she has been having daily post-cough vomiting 
episodes during the past week. She denies hemoptysis. 
Additionally, the patient has been having worsening shortness of 
breath w/exertion during the past 2 weeks. 
 The patient also complains that despite being hungry she can 
only tolerate a liquid diet due to her worsening cough. She 
denies having difficulty or pain while swallowing. She endorses 
an unintended weight loss of 13 pounds since the end of 
___ until today. 
 Her PCP did further ___ and she was found to have an 
elevated D-Dimer so was she sent to ___ on 
___. At ___, CTA showed segmental PEs without 
mention of RV dysfunction, TnT 0.35, BNP 10,826. Transferred to 
___ for further management.  
 
Past Medical History:
 NICOTINE DEPENDENCE, CIGARETTES, UNCOMPLICATED 
 NONTOX MULTINODUL GOITER 
 CYST OF THYROID 
 PANCREAT CYST/PSEUDOCYST 
 IDIOPATHIC SCOLIOSIS 
 HYPERTENSION 
 
Social History:
___
Family History:
 Paternal grandfather had MI at age ___
 Paternal uncle had MI at age ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
Vital Signs:  T=98.7F, HR=83x' BP=123/87mmHg, RR=14x', SpO2=99% 
RA
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi.  
 Abdomen: Soft, with no peritoneal signs, tenderness to 
palpation is present in epigastrium, non-distended, bowel sounds 
present, no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, or 
edema. Bilateral palmar erythema. Mild resting tremor of distal 
upper extremities.   
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
DISCHARGE PHYSICAL EXAM
========================
Vitals: T=98.9 BP=112/76 HR=79  RR=16 O2=95 on RA  
 Weight:  55.4
 Weight on admission: 55.4  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi.  
 Abdomen: Soft, with no peritoneal signs, non-tender, 
non-distended, bowel sounds present, no organomegaly, no rebound 
or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, or 
edema. Bilateral palmar erythema. Mild resting tremor of distal 
upper extremities.   
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait normal.  

 
Pertinent Results:
Admission labs

___ 01:57AM BLOOD WBC-7.3 RBC-3.08* Hgb-11.3 Hct-32.8* 
MCV-107* MCH-36.7* MCHC-34.5 RDW-12.4 RDWSD-48.8* Plt ___
___ 01:57AM BLOOD ___ PTT-98.6* ___
___ 01:57AM BLOOD Plt ___
___ 01:57AM BLOOD Glucose-92 UreaN-22* Creat-0.8 Na-137 
K-3.9 Cl-97 HCO3-22 AnGap-22*
___ 01:57AM BLOOD ALT-46* AST-60* LD(LDH)-260* AlkPhos-46 
Amylase-74 TotBili-0.6
___ 01:57AM BLOOD cTropnT-0.29*
___ 01:57AM BLOOD proBNP-9614*
___ 01:57AM BLOOD Albumin-3.9

Discharge labs

___ 06:05AM BLOOD WBC-6.9 RBC-3.05* Hgb-11.0* Hct-31.9* 
MCV-105* MCH-36.1* MCHC-34.5 RDW-11.9 RDWSD-45.8 Plt ___
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD PTT-69.8*
___ 06:05AM BLOOD Glucose-86 UreaN-15 Creat-0.6 Na-134 
K-3.4 Cl-96 HCO3-24 AnGap-17
___ 06:05AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.5*

TTE ___
The left atrial volume index is mildly increased. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with hypokinesis of the 
mid- and distal inferolateral and lateral walls. The remaining 
segments contract normally. Quantitative (3D) LVEF = 44%. There 
is no ventricular septal defect. Right ventricular chamber size 
is normal The diameters of aorta at the sinus, ascending and 
arch levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis. Trace aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. Moderate [2+] 
tricuspid regurgitation is seen. There is moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. Normal right ventricular systolic functioh. Mild mitral 
regurgitation. Moderate tricuspid regurgitation. Moderate 
pulmonary hypertension.
 
Brief Hospital Course:
TRANSITIONAL ISSUES
============================================
-Started on Rivaroxaban for treatment of pulmonary embolism. She 
will continue on this medication for at least 6 months, but 
indefinite treatment should be considered in setting of possibly 
unprovoked PE. She started on the usual dose of 15 mg BID for 21 
days and then she would be transitioned to 20 mg daily (on 
___
-Started on Atorvastatin 40mg PO daily during this admission
-She will need screening for malignancy as an outpatient if she 
does not have current results (colonoscopy, mammography)
-She will need support for smoking cessation due to her risk of 
recurrent pulmonary embolism
-Needs support for cessation of alcohol use (endorses 6 glasses 
of wine daily currently)
-Due to newly diagnosed decreased EF with regional wall motion 
abnormalities on the lateral LV wall we advise obtaining an 
outpatient coronary evaluation 

SUMMARY OF HOSPITALIZATION
=================================================
Ms. ___ is a ___ woman with a h/o pancreatic cyst, HTN, 
multinodular non-toxic goiter who presented with 2 weeks of 
gradually worsening dyspnea on exertion without associated chest 
pain or lower extremity edema. She had a mild troponin elevation 
and a CTA positive for PE.

#Pulmonary embolism: Patient with gradual onset of shortness of 
breath that worsened in the 2 weeks prior to admission. She had 
mild troponin elevation on admission and CTA (+) for pulmonary 
embolism in right upper and right lower lobe. There is no clear 
inciting event for PE, although she does report taking a 7 hour 
flight prior the the onset of symptoms. She was monitored on 
telemetry and placed on a heparin gtt on admission, and she 
maintained adequate O2 saturations at rest and with exertion, 
without need for supplemental O2.
- Rivaroxaban 15mg PO BID
- Smoking cessation
- Outpatient screening for malignancy if not performed recently
- Cessation of alcohol drinking

#Heart failure with reduced ejection fraction/ Coronary artery 
disease vs. takotsubo cardiomyopathy
- Patient with unexpected findings on TTE performed ___, 
with borderline low LV Ejection fraction of 44% and hypokinesis 
of the mid-and distal inferolateral and lateral walls.
- Patient will likely benefit from outpatient coronary 
evaluation. 
- Smoking cessation
- Home Losartan
- Home metoprolol
- Atorvastatin 40mg PO daily

#Abdominal pain, weight loss: Patient with mild tenderness to 
palpation in epigastrium at admission, with a h/o pancreatic 
cyst. She also has a recent 13lb weight loss. Her CTA showed a 
ring-like calcification in the right lobe of the liver as well.
- amylase and lipase were normal
- LFT's showed elevation possibly due to transaminitis secondary 
to Alcohol intake
- ___ need further imaging (cancer screening) as outpatient
- Advice to stop alcohol intake
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prochlorperazine 10 mg PO Q8H:PRN nasuea 
2. Clarithromycin 500 mg PO Q12H 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. BuPROPion (Sustained Release) 100 mg PO BID 
5. Losartan Potassium 25 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3 
2.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth every eight (8) 
hours Disp #*30 Capsule Refills:*0 
3.  Rivaroxaban 15 mg PO BID 
with food 
RX *rivaroxaban [Xarelto] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth twice a day Disp #*1 Dose Pack Refills:*0 
4.  BuPROPion (Sustained Release) 100 mg PO BID  
5.  Losartan Potassium 25 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  Prochlorperazine 10 mg PO Q8H:PRN nasuea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
-Subacute pulmonary embolism
Secondary diagnosis:
-Heart failure with reduced ejection fraction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___:
 You were admitted to ___ 
because you were having increasing shortness of breath. During 
your hospital stay we found out that you had some blood clots in 
your lung. This condition is also known as a Pulmonary Embolism.
 We treated you with blood thinners to help control the blood 
clots and prevent the formation of new clots. We also did a 
study called an Echo which showed that your heart is not moving 
and pumping as well as we would expect, a condition called heart 
failure. This is something that you should get studied as an 
outpatient. Meanwhile, we think that you have improved and that 
we can discharge you and you can continue your recovery at home. 
We gave you some new medicines to control your heart failure and 
a blood thinning medication to decrease the risk of new blood 
clots forming.
 We STRONGLY advise you to quit smoking because that is the main 
risk factor for blood clots forming. We also advise you to avoid 
drinking alcohol, because this can increase your risk of 
bleeding and can cause bad reactions with your blood-thinning 
medication.
 We have started the process of scheduling follow-up 
appointments with your primary care doctor and ___ cardiologist. 
Please make sure you attend these follow-up appointments. Also 
make sure that you take all your medications as prescribed. 
 Thank you for allowing us to participate in your care.
 We wish you the best of luck in the future.
-Your ___ care team.
 
Followup Instructions:
___